US03972880
1,2-Dihydro-7-(3-methyl-2-octyl)-9-[4-(piperidino) butyryloxy]-1,4,4-trimethyl-4H-thieno[2,3-c][1) benzopyran ##SPC24##
A combination of 2.4 g. (6.4 mmole) of 1,2-dihydro-9-hydroxy-7-(3-methyl-2-octyl)-1,4,4,-trimethyl-4H-thieno[2,3-c][1]benzopyran, 1.33 g. (6.4 mmole) of γ-piperidinobutyric acid hydrochloride, 1.40 g. (6.75 mmole) of dicyclohexylcarbodiimide and 125 ml. of methylene chloride was stirred at room temperature for 18 hours. The reaction mixture was cooled and the byproduct of dicyclohexylurea was removed by filtration. The methylene chloride was distilled off on a rotary evaporator to give a colorless, foamy residue, which was purified on 80 g. of magnesium silicate (60-100 mesh) using a graded methanol/chloroform solvent system. The fractions were monitored by thin layer chromatography, and the appropriate fractions were combined to give 1.23 g. (37%) of the desired material as a golden gum. The infrared and nuclear magnetic resonance spectra were in agreement with the desired product.

reactant | 1,2-dihydro-9-hydroxy-7-(3-methyl-2-octyl)-1,4,4,-trimethyl-4H-thieno[2,3-c][1]benzopyran | 6.4 mmole | OC1=CC(=CC2=C1C1=C(C(O2)(C)C)SCC1C)C(C)C(CCCCC)C | C23H34O2S
reactant | γ-piperidinobutyric acid hydrochloride | 6.4 mmole | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | 6.75 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1,2-Dihydro-7-(3-methyl-2-octyl)-9-[4-(piperidino) butyryloxy]-1,4,4-trimethyl-4H-thieno[2,3-c][1) benzopyran | CC(C(C)C1=CC2=C(C3=C(C(O2)(C)C)SCC3C)C(=C1)OC(CCCN1CCCCC1)=O)CCCCC | C32H49NO3S
